US07265249B2
Adamantyl acetaldehyde:
To a flask containing 2-adamantyl-1-ethanol (5 g, 27.7 mmol) in CH2Cl2 (28 mL) was added TEMPO (433 mg, 2.77 mmol) followed by iodobenzene diacetate (9.8 g, 30.5 mmol). The reaction was stirred 1 hour and then diluted with CH2Cl2 (100 mL). Saturated aqueous solution of Na2S2O3 (100 mL) was added and extracted with CH2Cl2 (3×50 mL). The combined organics were washed with saturated aqueous NaHCO3 (150 mL) and brine (150 mL), dried over Na2SO4, and concentrated in vacuo. The resulting residue was purified by silica gel chromatography (5% Et2O/pentanes) to provide the title compound, which was identical to the reported literature compound (see Luly et al. (1987) J. Org. Chem. 52: 1487).

reactant | 2-adamantyl-1-ethanol | 27.7 mmol, 5 g | C12C(C3CC(CC(C1)C3)C2)C(C)O | C12H20O
reactant | TEMPO | 2.77 mmol, 433 mg | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | iodobenzene diacetate | 30.5 mmol, 9.8 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
reactant | Na2S2O3 | 100 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | CH2Cl2 | 28 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | Adamantyl acetaldehyde | C12(CC3CC(CC(C1)C3)C2)CC=O | C12H18O
